data/oMe_Silver.jsonl
{"reaction_id": "NR-003_1-C(C)(C)C_2-CCCC","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(C(C)(C)C)(OCCCC)"],"products_smiles": ["O=C(C(C)(C)C)C(O)C(C)(C)C"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(C(C)(C)C)(OCCCC)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(C(C)(C)C)(OCCCC)C([O-])(C(C)(C)C)(OCCCC)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(C)(C)C)C(=O)C(C)(C)C","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(C(C)(C)C)=C([O])C(C)(C)C","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(C(C)(C)C)=C([O-])C(C)(C)C","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C(C)(C)C)C([O-])C(C)(C)C","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C(C)(C)C)C(O)C(C)(C)C","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
{"reaction_id": "NR-229_1-c1ccc(C(F)(F)F)cc1_2-c1ccc(Cl)cc1_3-C1CCC1_4-c1ccc(OC)cc1_5-CC","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1)","C(C1CCC1)=C(c1ccc(OC)cc1)(CC)","O"],"products_smiles": ["C([OH])(c1ccc(OC)cc1)(CC)C(C1CCC1)(C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](c1ccc(OC)cc1)(CC)C(C1CCC1)(C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(c1ccc(OC)cc1)(CC)C(C1CCC1)(C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(c1ccc(OC)cc1)(CC)C(C1CCC1)(C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
